US07858800B2
4-[1-(2-Chlorophenyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-3-oxopiperazine-1-carboxylic acid tert-butylamide
In a nitrogen atmosphere, 4-[1-(2-chlorophenyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-3-oxopiperazine prepared in 1) of Example 51 was dissolved in 1 ml of chloroform and 0.05 ml of tert-butyl isocyanate and 0.1 ml of triethylamine were added thereto followed by stirring at room temperature for 2 hours. After the solvent was evaporated in vacuo, the resulting residue was purified by a preparative thin-layer silica gel chromatography (chloroform:methanol=9:1) to give 5 mg of the title compound as a white solid.

reactant | 4-[1-(2-chlorophenyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-3-oxopiperazine | ClC1=C(C=CC=C1)N1N=NC(=C1C)N1C(CNCC1)=O | C13H14ClN5O
reactant | tert-butyl isocyanate | 0.05 ml | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[1-(2-Chlorophenyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-3-oxopiperazine-1-carboxylic acid tert-butylamide | 5 mg | C(C)(C)(C)NC(=O)N1CC(N(CC1)C=1N=NN(C1C)C1=C(C=CC=C1)Cl)=O | C18H23ClN6O2
